US06054141
A solution of 2-butyl-7-(tert-butyldimethylsilyloxy)-1-heptanol in dichloromethane (10 ml) was added to a suspension of pyridinium chlorochromate (8.09 g, 38 mmol) and sodium acetate (150 mg) in 30 ml of dichloromethane and stirred at ambient temperature for several hours. After the usual work up followed by PMPLC, 6.61 g (88%) of 2-butyl-7-(tert-butyldimethylsilyloxy)heptanaI was obtained.

reactant | 2-butyl-7-(tert-butyldimethylsilyloxy)-1-heptanol | C(CCC)C(CO)CCCCCO[Si](C)(C)C(C)(C)C | C17H38O2Si
reactant | pyridinium chlorochromate | 38 mmol, 8.09 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | sodium acetate | 150 mg | C(C)(=O)[O-].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-butyl-7-(tert-butyldimethylsilyloxy)heptanaI | 6.61 g, 88% | C(CCC)C(C=O)CCCCCO[Si](C)(C)C(C)(C)C | C17H36O2Si
